US06326359B1
(2R,3R,4S,5R)-2-[2-(Aminomethyl)-6-(phenethylamino)-9H-purin-9-yl]-5-(methoxymethyl)tetrahydro-3,4-furandiol
A solution of 9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-(phenethylamino)-9H-purine-2-carbonitrile (2.9 g, 7.07 mmol) (preparation 47) in ethanol (300 ml), saturated with ammonia gas, was treated with 5% palladium on charcoal (1.0 g), pressurised to 1034 kPa (150 psi) with hydrogen gas in a sealed vessel and stirred at room temperature for 48 hr. The reaction mixture was filtered through Arbocel (trade mark) and the solvent removed under reduced pressure. The residue was dissolved in dichloromethane and the solvent removed under reduced pressure to give a product that was purified by column chromatography on silica gel eluting with a solvent system of dichloromethane:methanol:ammonia (92:8:0.4) to give the title compound (1.7 g) as a foam. MS: 416 (MH+)

reactant | 9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-(phenethylamino)-9H-purine-2-carbonitrile | 7.07 mmol, 2.9 g | O[C@H]1[C@@H](O[C@@H]([C@H]1O)COC)N1C2=NC(=NC(=C2N=C1)NCCC1=CC=CC=C1)C#N | C20H22N6O4
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
product | (2R,3R,4S,5R)-2-[2-(Aminomethyl)-6-(phenethylamino)-9H-purin-9-yl]-5-(methoxymethyl)tetrahydro-3,4-furandiol | 1.7 g | NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)NCCC1=CC=CC=C1 | C20H26N6O4
